US07977344B2
6-Amino-2-[(1-methylbutyl)oxy]-9-(tetrahydro-2H-Pyran-4-ylmethyl)-7,9-dihydro-8H-purin-8-one
To a solution of 2-[(1-methylbutyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (92 mg) in dry MeOH (9.9 mL) was added 4N HCl in 1,4-dioxane (1.7 mL) and the reaction mixture was stirred at room temperature for 3 h. The reaction was neutralised to pH7 with 2M sodium hydroxide solution and concentrated in vacuo to give an off-white solid. The solid was triturated with water (30 mL) and filtered under reduced pressure to give the title compound as an off-white solid (55 mg).

reactant | 2-[(1-methylbutyl)oxy]-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 92 mg | CC(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N | C17H27N5O3
reactant | HCl | 4N | Cl | ClH
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | MeOH | 9.9 mL | CO | CH4O
solvent | 1,4-dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-2-[(1-methylbutyl)oxy]-9-(tetrahydro-2H-Pyran-4-ylmethyl)-7,9-dihydro-8H-purin-8-one | 55 mg | NC1=C2NC(N(C2=NC(=N1)OC(CCC)C)CC1CCOCC1)=O | C16H25N5O3
